US05126396
PREPARATION OF UNSATURATED URETHANE/METHYL METHACRYLATE
A polyisocyanate having an average functionality of 2.6 (Suprasec (RTM) DND, ex ICI: 354 grams), a propoxylated glycerol end-capped with ethylene oxide and having a molecular weight of about 6000 (Daltocel (RTM) F2805, ex ICI; 240 grams), 2-hydroxyethyl methacrylate (338.5 grams) and methyl methacrylate (900.3 grams) were mixed and stirred under nitrogen. Dibutyl tin dilaurate (7 grams) was added with stirring and the reaction temperature rose to 70° C. After 2 hours the isocyanate concentration had fallen to below 2000 ppm. A mixture of an unsaturated urethane and methyl methacrylate, in approximately 1:1 weight ratio, was obtained as a brown liquid, (hereinafter referred to for convenience as Resin A).

reactant | Suprasec | CN(C)C(=O)C(CCN1CCC(CC1)(C2=CC=C(C=C2)Cl)O)(C3=CC=CC=C3)C4=CC=CC=C4.Cl
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | 2-hydroxyethyl methacrylate | 338.5 grams | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | methyl methacrylate | 900.3 grams | C(C(=C)C)(=O)OC | C5H8O2
reactant | Dibutyl tin dilaurate | 7 grams | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | URETHANE METHYL METHACRYLATE | NC(=O)OCC.C(C(=C)C)(=O)OC | InChI=1S/C5H8O2.C3H7NO2/c1-4(2)5(6)7-3;1-2-6-3(4)5/h1H2,2-3H3;2H2,1H3,(H2,4,5)
